US08802860B2
Preparation of diethyl [1-(2,6-dimethyl-4-nitrophenyl)-2-oxo-1,2-dihydropyridin-3-yl]malonate
Under argon, 42.5 g (379 mmol) of potassium tert-butylate were suspended in 530 ml of dioxane and heated to 55-60° C. At this temperature, a solution of 60.7 g (379 mmol) of diethyl malonate in 100 ml of dioxane was added over 20 min. When the addition was complete, the reaction mixture was stirred for 1 h at 60° C. 6.72 g (21.7 mmol) of bis(2-pyridinecarboxylato)copper(II) complex were then added, as were 35.0 g (108 mmol) of 3-bromo-1-(2,6-dimethyl-4-nitrophenyl)pyridin-2(1H)-one. The reaction mixture was heated at reflux for 8 h and then stirred overnight at RT. Filtering off the liquid from the solid with suction was carried out, followed by after-washing with dioxane, and the filtrate was evaporated to 250 g on a rotary evaporator. The crude solution was further reacted without purification.

reactant | potassium tert-butylate | 379 mmol, 42.5 g | CC(C)(C)[O-].[K+]
reactant | diethyl malonate | 379 mmol, 60.7 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 3-bromo-1-(2,6-dimethyl-4-nitrophenyl)pyridin-2(1H)-one | 108 mmol, 35.0 g | BrC=1C(N(C=CC1)C1=C(C=C(C=C1C)[N+](=O)[O-])C)=O | C13H11BrN2O3
solvent | dioxane | 530 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | diethyl [1-(2,6-dimethyl-4-nitrophenyl)-2-oxo-1,2-dihydropyridin-3-yl]malonate | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)N1C(C(=CC=C1)C(C(=O)OCC)C(=O)OCC)=O | C20H22N2O7
